### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Category/RelCat): Show basic facts and self-duality of category of relations.

### PR DESCRIPTION
**Pull request by uniwuni**
Add facts about `rel` somewhat like the facts about `types`, classify isos in `rel`, construct the inclusion from `types` to `rel`, show self-duality of `rel`. 

---

~~WIP but I'd appreciate any comments in advance especially about the self-duality bits~~
TODO:
- [X] ~~products or coproducts~~
- [X] ~~the dual notion via the equivalence~~

- [x] depends on: #11239
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Category/RelCat.lean [hunk 1]
```diff
@@ -35,4 +39,125 @@ instance rel : LargeCategory RelCat where
   comp f g x z := ∃ y, f x y ∧ g y z
 #align category_theory.rel CategoryTheory.rel
 
+theorem rel_hom {X Y : RelCat} : (X ⟶ Y) = Rel X Y := rfl
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/Category/RelCat.lean:42]: I think you should avoid using this lemma

File: Mathlib/CategoryTheory/Category/RelCat.lean [hunk 2]
```diff
@@ -35,4 +39,125 @@ instance rel : LargeCategory RelCat where
...
+theorem rel_comp {X Y Z : RelCat} (f : X ⟶ Y) (g : Y ⟶ Z) : f ≫ g = Rel.comp f g := rfl
+
+@[simp] theorem rel_id_apply₂ (X : RelCat) (x y : X) : (𝟙 X) x y ↔ x = y := by
+  rw[rel_id]
+
+@[simp] theorem rel_comp_apply₂ {X Y Z : RelCat} (f : X ⟶ Y) (g : Y ⟶ Z) (x : X) (z : Z) :
+    (f ≫ g) x z ↔ ∃ y, f x y ∧ g y z := by rfl
+
+/-- The essentially surjective faithful embedding
+    from the category of sets and functions into the category of sets and relations. -/
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/Category/RelCat.lean:58]:
```suggestion
from the category of types and functions into the category of types and relations. -/
```

File: Mathlib/CategoryTheory/Category/RelCat.lean [hunk 3]
```diff
@@ -35,4 +39,125 @@ instance rel : LargeCategory RelCat where
...
+def typeRelFunctor : Type u ⥤ RelCat.{u} where
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/Category/RelCat.lean:59]:
```suggestion
def graphFunctor : Type u ⥤ RelCat.{u} where
```
is possibly more accurate?

File: Mathlib/CategoryTheory/Category/RelCat.lean [hunk 4]
```diff
@@ -35,4 +39,125 @@ instance rel : LargeCategory RelCat where
...
+    typeRelFunctor.map f x y ↔ f x = y := f.graph_def x y
+
+instance typeRelFunctor_faithful : Faithful typeRelFunctor where
+  map_injective h := Function.graph_inj _ _ h
+
+instance typeRelFunctor_essSurj : EssSurj typeRelFunctor :=
+    typeRelFunctor.essSurj_of_surj Function.surjective_id
+
+open Classical
+/-- A relation is an isomorphism in `rel` iff it is the image of a isomorphism in `types`. -/
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/Category/RelCat.lean:73]:
```suggestion
/-- A relation is an isomorphism in `RelCat` iff it is the image of an isomorphism in `Type`. -/
```

File: Mathlib/CategoryTheory/Category/RelCat.lean [hunk 5]
```diff
@@ -35,4 +39,125 @@ instance rel : LargeCategory RelCat where
...
 #align category_theory.rel CategoryTheory.rel
 
+theorem rel_hom {X Y : RelCat} : (X ⟶ Y) = Rel X Y := rfl
+
+@[ext] theorem rel_ext {X Y : RelCat} (f g : X ⟶ Y) (h : ∀ a b, f a b ↔ g a b) : f = g :=
+  funext₂ (fun a b => propext (h a b))
+
+theorem rel_id (X : RelCat) : 𝟙 X = (· = ·) := rfl
+
+theorem rel_comp {X Y Z : RelCat} (f : X ⟶ Y) (g : Y ⟶ Z) : f ≫ g = Rel.comp f g := rfl
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/Category/RelCat.lean:49]: Put
```
namespace RelCat.Hom
```
somewhere higher, then
```suggestion
protected theorem id (X : RelCat) : 𝟙 X = (· = ·) := rfl

protected theorem comp {X Y Z : RelCat} (f : X ⟶ Y) (g : Y ⟶ Z) : f ≫ g = Rel.comp f g := rfl
```

File: Mathlib/CategoryTheory/Category/RelCat.lean [hunk 6]
```diff
@@ -35,4 +39,125 @@ instance rel : LargeCategory RelCat where
...
+
+@[simp] theorem rel_id_apply₂ (X : RelCat) (x y : X) : (𝟙 X) x y ↔ x = y := by
+  rw[rel_id]
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/Category/RelCat.lean:52]:
```suggestion
  rw [rel_id]
```

File: Mathlib/CategoryTheory/Category/RelCat.lean [hunk 7]
```diff
@@ -35,4 +39,125 @@ instance rel : LargeCategory RelCat where
...
+    exact Eq.comm
+  map_comp {X Y Z} f g := by
+    unfold Category.opposite
+    congr
+    ext x y
+    apply exists_congr
+    exact fun a => And.comm
+
+/-- The other direction of `rel_relOp`. -/
+def relOp_rel : RelCatᵒᵖ ⥤ RelCat where
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/Category/RelCat.lean:125]:
```suggestion
def relOpRel : RelCatᵒᵖ ⥤ RelCat where
```

File: Mathlib/CategoryTheory/Limits/RelCat.lean
Comment (YaelDillies) [inline Mathlib/CategoryTheory/Limits/RelCat.lean:1]: Do you mind making this a second PR depending on this one? Add
```
- [ ] depends on: #11241
```
in the PR description of the new PR.

File: Mathlib/Data/Rel.lean [hunk 8]
```diff
@@ -365,6 +365,12 @@ def graph (f : α → β) : Rel α β := fun x y => f x = y
 
 @[simp] lemma graph_def (f : α → β) (x y) : f.graph x y ↔ (f x = y) := Iff.rfl
 
+theorem graph_inj (f g : α → β) (h : f.graph = g.graph) : f = g := by
```
Comment (YaelDillies) [inline Mathlib/Data/Rel.lean:368]:
```suggestion
theorem graph_injective : Injective (graph : (α → β) → α × β) := by
```
and also add
```
@[simp] lemma graph_inj {f g : α → β} : f.graph = g.graph ↔ f = g := graph_injective.eq_iff
```

File: Mathlib/CategoryTheory/Category/RelCat.lean [hunk 9]
```diff
@@ -35,4 +39,128 @@ instance rel : LargeCategory RelCat where
...
+namespace RelCat.Hom
+
+protected theorem rel_id (X : RelCat) : 𝟙 X = (· = ·) := rfl
+
+protected theorem rel_comp {X Y Z : RelCat} (f : X ⟶ Y) (g : Y ⟶ Z) : f ≫ g = Rel.comp f g := rfl
+
+@[simp] theorem rel_id_apply₂ (X : RelCat) (x y : X) : (𝟙 X) x y ↔ x = y := by
+  rw [RelCat.Hom.rel_id]
+
+@[simp] theorem rel_comp_apply₂ {X Y Z : RelCat} (f : X ⟶ Y) (g : Y ⟶ Z) (x : X) (z : Z) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Category/RelCat.lean:54]: I am not completely sure we want to tag `rel_comp_apply₂` and `rel_id_apply₂` with the `simp` attribute.

File: Mathlib/CategoryTheory/Category/RelCat.lean [hunk 10]
```diff
@@ -35,4 +39,128 @@ instance rel : LargeCategory RelCat where
...
+@[simp] theorem graphFunctor_map {X Y : Type u} (f : X ⟶ Y) (x : X) (y : Y) :
+    graphFunctor.map f x y ↔ f x = y := f.graph_def x y
+
+instance graphFunctor_faithful : Faithful graphFunctor where
+  map_injective h := Function.graph_injective h
+
+instance graphFunctor_essSurj : EssSurj graphFunctor :=
+    graphFunctor.essSurj_of_surj Function.surjective_id
+
+open Classical
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Category/RelCat.lean:74]: Here, it may not change anything, but it is usually considered better to insert `classical` only in the proof.

File: Mathlib/CategoryTheory/Category/RelCat.lean [hunk 11]
```diff
@@ -35,4 +39,128 @@ instance rel : LargeCategory RelCat where
...
+      apply (h2 _ _).mp
+      use g y, (hf (g y)).2, (hg y).2
+  · rintro ⟨f, rfl⟩
+    apply graphFunctor.map_isIso
+
+section Opposite
+open Opposite
+
+/-- The argument-swap isomorphism from `rel` to its opposite. -/
+def relRelOp : RelCat ⥤ RelCatᵒᵖ where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Category/RelCat.lean:112]: The name `RelCat.opFunctor` (and similarly bellow `RelCat.unopFunctor`) might be better.

File: Mathlib/CategoryTheory/EssentialImage.lean [hunk 12]
```diff
@@ -167,6 +167,11 @@ instance Full.toEssImage (F : C ⥤ D) [Full F] : Full F.toEssImage :=
 instance instEssSurjId : EssSurj (𝟭 C) where
   mem_essImage Y := ⟨Y, ⟨Iso.refl _⟩⟩
 
+theorem Functor.essSurj_of_surj (h : Function.Surjective F.obj) : EssSurj F where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/EssentialImage.lean:170]: I am not completely sure we need this lemma.

Comment (uniwuni) [reply Mathlib/CategoryTheory/EssentialImage.lean:170]: it's already merged either way, see #11239

File: Mathlib/CategoryTheory/Category/RelCat.lean (hunk 11 above)
Comment (uniwuni) [reply Mathlib/CategoryTheory/Category/RelCat.lean]: thanks!

File: Mathlib/CategoryTheory/Category/RelCat.lean (hunk 9 above)
Comment (uniwuni) [reply Mathlib/CategoryTheory/Category/RelCat.lean:55]: `types_id_apply` and `types_comp_apply` in `CategoryTheory.Types` are also tagged with simp, is there any notable difference in how these behave?

Comment (YaelDillies) [reply Mathlib/CategoryTheory/Category/RelCat.lean:55]: `CategoryTheory.Types` is *ancient*. It's not a very good model for how to do things. In fact, @joelriou (or anyone better versed in the category theory library than me), would you mind reworking `CategoryTheory.Types` to be more "modern"?

Comment (uniwuni) [reply Mathlib/CategoryTheory/Category/RelCat.lean]: Still not really sure what issues these simps could cause, but I removed it just in case

File: Mathlib/CategoryTheory/Category/RelCat.lean [hunk 13]
```diff
@@ -35,4 +39,135 @@ instance rel : LargeCategory RelCat where
   comp f g x z := ∃ y, f x y ∧ g y z
 #align category_theory.rel CategoryTheory.rel
 
+@[ext] theorem rel_ext {X Y : RelCat} (f g : X ⟶ Y) (h : ∀ a b, f a b ↔ g a b) : f = g :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Category/RelCat.lean:42]:
```suggestion
@[ext] theorem RelCat.hom_ext {X Y : RelCat} (f g : X ⟶ Y) (h : ∀ a b, f a b ↔ g a b) : f = g :=
```

File: Mathlib/CategoryTheory/Category/RelCat.lean [hunk 14]
```diff
@@ -35,4 +39,135 @@ instance rel : LargeCategory RelCat where
...
+end Hom
+
+/-- The essentially surjective faithful embedding
+from the category of types and functions into the category of types and relations. -/
+def graphFunctor : Type u ⥤ RelCat.{u} where
+  obj X := X
+  map f := f.graph
+  map_id X := by
+    ext
+    simp[Hom.rel_id_apply₂]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Category/RelCat.lean:66]:
```suggestion
    simp [Hom.rel_id_apply₂]
```

File: Mathlib/CategoryTheory/Category/RelCat.lean [hunk 15]
```diff
@@ -35,4 +39,135 @@ instance rel : LargeCategory RelCat where
...
+  map_comp f g := by
+    ext
+    simp[Hom.rel_comp_apply₂]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Category/RelCat.lean:69]:
```suggestion
    simp [Hom.rel_comp_apply₂]
```

File: Mathlib/CategoryTheory/Category/RelCat.lean [hunk 16]
```diff
@@ -35,4 +39,135 @@ instance rel : LargeCategory RelCat where
...
+    apply exists_congr
+    exact fun a => And.comm
+
+@[simp] theorem opFunctor_comp_unopFunctor_eq :
+    Functor.comp opFunctor unopFunctor = Functor.id _ := by rfl
+
+@[simp] theorem unopFunctor_comp_opFunctor_eq :
+    Functor.comp unopFunctor opFunctor = Functor.id _ := by rfl
+
+instance opFunctor_isEquivalence : IsEquivalence opFunctor where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Category/RelCat.lean:155]: These two `IsEquivalence` instances should be deduced from the equivalence of categories obtained below.
(Note that are merging with `master`, you will have to replace `IsEquivalence` by `Functor.IsEquivalence`.)

File: Mathlib/CategoryTheory/Category/RelCat.lean [hunk 17]
```diff
@@ -35,4 +39,135 @@ instance rel : LargeCategory RelCat where
...
+  counitIso := Iso.refl _
+
+instance unopFunctor_isEquivalence : IsEquivalence unopFunctor where
+  inverse := opFunctor
+  unitIso := Iso.refl _
+  counitIso := Iso.refl _
+
+/-- `rel` is self-dual: The map that swaps the argument order of a
+    relation induces an equivalence between `rel` and its opposite. -/
+def opFunctor_equivalence : Equivalence RelCat RelCatᵒᵖ :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Category/RelCat.lean:167]:
```suggestion
def opEquivalence : Equivalence RelCat RelCatᵒᵖ :=
```

**Comment by uniwuni** [comment]
sorry for messing up the rebase, no idea what happened there I'll try to figure it out

**Comment by uniwuni** [comment]
Very weird things going on with git but it should be alright since it all gets squashed anyways

File: Mathlib/CategoryTheory/Category/RelCat.lean [hunk 18]
```diff
@@ -35,4 +39,140 @@ instance rel : LargeCategory RelCat where
...
+protected theorem rel_id (X : RelCat) : 𝟙 X = (· = ·) := rfl
+
+protected theorem rel_comp {X Y Z : RelCat} (f : X ⟶ Y) (g : Y ⟶ Z) : f ≫ g = Rel.comp f g := rfl
+
+theorem rel_id_apply₂ (X : RelCat) (x y : X) : (𝟙 X) x y ↔ x = y := by
+  rw [RelCat.Hom.rel_id]
+
+theorem rel_comp_apply₂ {X Y Z : RelCat} (f : X ⟶ Y) (g : Y ⟶ Z) (x : X) (z : Z) :
+    (f ≫ g) x z ↔ ∃ y, f x y ∧ g y z := by rfl
+end Hom
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Category/RelCat.lean:60]:
```suggestion

end Hom
```

File: Mathlib/CategoryTheory/Category/RelCat.lean [hunk 19]
```diff
@@ -35,4 +39,140 @@ instance rel : LargeCategory RelCat where
...
+def graphFunctor : Type u ⥤ RelCat.{u} where
+  obj X := X
+  map f := f.graph
+  map_id X := by
+    ext
+    simp [Hom.rel_id_apply₂]
+  map_comp f g := by
+    ext
+    simp [Hom.rel_comp_apply₂]
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Category/RelCat.lean:73]:
```suggestion
```

File: Mathlib/CategoryTheory/Category/RelCat.lean [hunk 20]
```diff
@@ -35,4 +39,140 @@ instance rel : LargeCategory RelCat where
...
+  change opEquivalence.functor.IsEquivalence
+  infer_instance
+
+instance : unopFunctor.IsEquivalence := by
+  change opEquivalence.inverse.IsEquivalence
+  infer_instance
+
+end Opposite
+
+end RelCat
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Category/RelCat.lean:177]:
```suggestion
end RelCat

```

File: Mathlib/CategoryTheory/Category/RelCat.lean [hunk 21]
```diff
@@ -35,4 +39,140 @@ instance rel : LargeCategory RelCat where
...
+    exact Eq.comm
+  map_comp {X Y Z} f g := by
+    unfold Category.opposite
+    congr
+    ext x y
+    apply exists_congr
+    exact fun a => And.comm
+
+@[simp] theorem opFunctor_comp_unopFunctor_eq :
+    Functor.comp opFunctor unopFunctor = Functor.id _ := by rfl
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Category/RelCat.lean:153]:
```suggestion
    Functor.comp opFunctor unopFunctor = Functor.id _ := rfl
```

File: Mathlib/CategoryTheory/Category/RelCat.lean [hunk 22]
```diff
@@ -35,4 +39,140 @@ instance rel : LargeCategory RelCat where
...
+
+@[simp] theorem unopFunctor_comp_opFunctor_eq :
+    Functor.comp unopFunctor opFunctor = Functor.id _ := by rfl
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Category/RelCat.lean:156]:
```suggestion
    Functor.comp unopFunctor opFunctor = Functor.id _ := rfl
```

File: Mathlib/CategoryTheory/Category/RelCat.lean [hunk 23]
```diff
@@ -35,4 +39,140 @@ instance rel : LargeCategory RelCat where
...
+
+/-- `rel` is self-dual: The map that swaps the argument order of a
+    relation induces an equivalence between `rel` and its opposite. -/
+@[simps]
+def opEquivalence : Equivalence RelCat RelCatᵒᵖ where
+  functor := opFunctor
+  inverse := unopFunctor
+  unitIso := (Iso.refl _)
+  counitIso := (Iso.refl _)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Category/RelCat.lean:165]:
```suggestion
  unitIso := Iso.refl _
  counitIso := Iso.refl _
```

**Comment by uniwuni** [comment]
Thanks for the recommendation and sorry for yet another wait!

File: Mathlib/CategoryTheory/Category/RelCat.lean [hunk 24]
```diff
@@ -1,16 +1,26 @@
...
 
 #align_import category_theory.category.Rel from "leanprover-community/mathlib"@"afad8e438d03f9d89da2914aa06cb4964ba87a18"
 
 /-!
-The category of types with binary relations as morphisms.
--/
+# Basics on the category of relations
+We define the category of types `CategoryTheory.RelCat` with binary relations as morphisms.
+Associating each function with the relation defined by its graph yields a faithful and
+essentially surjective functor `graphFunctor` that also charakterizes all isomorphisms
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Category/RelCat.lean:18]:
```suggestion
essentially surjective functor `graphFunctor` that also characterizes all isomorphisms
```

File: Mathlib/CategoryTheory/Category/RelCat.lean [hunk 25]
```diff
@@ -1,16 +1,26 @@
...
+import Mathlib.CategoryTheory.Opposites
+import Mathlib.Data.Rel
 
 #align_import category_theory.category.Rel from "leanprover-community/mathlib"@"afad8e438d03f9d89da2914aa06cb4964ba87a18"
 
 /-!
-The category of types with binary relations as morphisms.
--/
+# Basics on the category of relations
+We define the category of types `CategoryTheory.RelCat` with binary relations as morphisms.
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Category/RelCat.lean:16]:
```suggestion

We define the category of types `CategoryTheory.RelCat` with binary relations as morphisms.
```

**Comment by joelriou** [comment]
Thanks!

bors merge
